US08202858B2
(4-Aminomethyl-cyclohexyl)-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride
A solution of [4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester from Example E10.1 (775 mg, 1.63 mmol) was reacted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (655 mg, 100%).

reactant | [4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCC(CC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)Cl)=O | C24H32ClN5O3
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | (4-Aminomethyl-cyclohexyl)-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride | 655 mg, 100% | Cl.NCC1CCC(CC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)Cl | InChI=1S/C19H24ClN5O.ClH/c1-24-18-14(10-22-24)11-25(17-7-6-15(20)8-16(17)23-18)19(26)13-4-2-12(9-21)3-5-13;/h6-8,10,12-13,23H,2-5,9,11,21H2,1H3;1H
